US04401598
1.0 mole of 2-chloroethyltriethoxysilane and 1.1 moles of sodium azide in 500 ml of acetone were heated in the presence of 3 mole percent of the catalyst described in Example 1 (a) for ten hours under intensive stirring and under reflux. After separation of the salt the subsequent distillation under reduced pressure gave the 2-azidoethyltriethoxysilane in a yield of 69 weight percent with the following characteristics:

reactant | 2-chloroethyltriethoxysilane | 1.0 mole | ClCC[Si](OCC)(OCC)OCC | C8H19ClO3Si
reactant | sodium azide | 1.1 moles | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 2-azidoethyltriethoxysilane | N(=[N+]=[N-])CC[Si](OCC)(OCC)OCC | C8H19N3O3Si
